US05025009
A) 5-(2-fluorophenyl)-7-hydroxy-3-methyl-2,3,4,5-tetra-hydro-1H-3-benzazepine
10.0 g 8-chloro-5-(2-fluorophenyl)-7-hydroxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine was dissolved in 500 ml acetic acid containing sodium acetate. Palladium-on-carbon was added and the suspension was heated to 60° C. Under vigorous stirring hydrogen was led through the suspension giving after 48 h 7,9 g crystalline compound. Yield 72%.

reactant | 8-chloro-5-(2-fluorophenyl)-7-hydroxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 10.0 g | ClC=1C(=CC2=C(CCN(CC2C2=C(C=CC=C2)F)C)C1)O | C17H17ClFNO
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
catalyst | Palladium-on-carbon | [Pd] | Pd
product | 5-(2-fluorophenyl)-7-hydroxy-3-methyl-2,3,4,5-tetra-hydro-1H-3-benzazepine | 7,9 g, Yield 72% | FC1=C(C=CC=C1)C1CN(CCC2=C1C=C(C=C2)O)C | C17H18FNO
